US07034039B2
A solution of 9H-fluoren-9-ylmethyl[6-(aminocarbothioyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (2.33 g, 4 mmol) and ethyl 2-chloroacetate (1.32 g, 8 mmol) in ethanol (20 ml) was refluxed under heating for 10 h. The resulting reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give ethyl 2-[4-butoxy-3-({[(9H-fluoren-9-ylmethoxy)carbonyl]amino}methyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4methyl-1,3-thiazole-5-carboxylate (1.81 g, 65.3%) as crystals.

reactant | 9H-fluoren-9-ylmethyl[6-(aminocarbothioyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 4 mmol, 2.33 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(=S)N)=O)CC(C)C)=O | C34H37N3O4S
reactant | ethyl 2-chloroacetate | 8 mmol, 1.32 g | ClCC(=O)OCC | C4H7ClO2
reactant | water | O | H2O
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 2-[4-butoxy-3-({[(9H-fluoren-9-ylmethoxy)carbonyl]amino}methyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-4methyl-1,3-thiazole-5-carboxylate | 1.81 g, 65.3% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C=1SC(=C(N1)C)C(=O)OCC)=O)CC(C)C)CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C40H43N3O6S
